US09120749B2
tert-Butyl trans-4-(3-acetyl-6-bromoquinolin-4-ylamino)cyclohexylcarbamate
Following general procedure B, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (420 mg, 1.48 mmol) was reacted with tert-butyl trans-4-aminocyclohexylcarbamate (642 mg, 3.00 mmol) to afford the desired product (550 mg, 80%) as an off-white solid: ESI MS m/z 462 [C22H28BrN3O3+H]+.

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 1.48 mmol, 420 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | tert-butyl trans-4-aminocyclohexylcarbamate | 3.00 mmol, 642 mg | N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H22N2O2
product | tert-Butyl trans-4-(3-acetyl-6-bromoquinolin-4-ylamino)cyclohexylcarbamate | 550 mg, 80% | C(C)(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)Br | C22H28BrN3O3
